US04107308
2-tert-Butyl-4-imidazolecarboxaldehyde
A 7.7 gm. portion of 2-tert-butyl-4-imidazolemethanol is added to 100 ml. of chloroform and 100 ml. of tetrahydrofuran and heated gently. A 25 gm. portion of manganese dioxide is added and the mixture is stirred and refluxed for 51/2 hours. The reaction mixture is filtered while hot and the manganese dioxide is triturated with hot chloroform and filtered. The two filtrates are combined and evaporated and the solid residue is recrystallized from ethyl acetate giving the desired producgt as white crystals, m.p. 194°-195° C.

reactant | 2-tert-butyl-4-imidazolemethanol | C(C)(C)(C)C=1NC=C(N1)CO | C8H14N2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-tert-Butyl-4-imidazolecarboxaldehyde | C(C)(C)(C)C=1NC=C(N1)C=O | C8H12N2O
